US08242104B2
To a solution of 1-isopropyl-1H-[1,2,4]triazole (33 g, 300 mmol) in THF at −10° C. was added n-butyllithium (145 mL, 2.5M, 360 mmol) dropwise over 45 min, and then the mixture stirred at 0° C. for 30 min. DMA (35 mL) was added, the mixture allowed to warm to RT and stirred for 1 h. The resultant suspension was treated with saturated aqueous ammonium chloride (300 mL). The aqueous phase was extracted with ethyl acetate and the combined organic extracts dried (Na2SO4), filtered and concentrated in vacuo to give 1-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone as a pale orange oil (40.1 g, 87%). 1H NMR δ (ppm) (CDCl3): 7.93 (1H, s), 5.58-5.46 (1H, m), 2.72 (3H, d, J=0.78 Hz), 1.49 (6H, dd, J=6.61, 0.78 Hz).

reactant | 1-isopropyl-1H-[1,2,4]triazole | 300 mmol, 33 g | C(C)(C)N1N=CN=C1 | C5H9N3
reactant | n-butyllithium | 360 mmol, 2.5M, 145 mL | C(CCC)[Li]
reactant | DMA | 35 mL | CC(=O)N(C)C | C4H9NO
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone | 40.1 g, 87% | C(C)(C)N1N=CN=C1C(C)=O | C7H11N3O
